US09145354B2
Step 2 To a solution of 3-[3-((R)-1-tert-Butoxycarbonylamino-propyl)-6-chloro-2-fluoro-benzoyl]-benzoic acid tert-butyl ester (219 mg, 0.45 mmol) in DCM (5 mL) was added 4M HCl in dioxane (0.445 mL, 1.78 mmol, 4 eq) and the reaction stirred for 18 h. Complete conversion. Mixture was concentrated and then triturated with diethyl ether (˜1 mL) and the solid filtered off to give 3-[3-((R)-1-amino-propyl)-6-chloro-2-fluoro-benzoyl]-benzoic acid (154 mg, 0.41 mmol, 92%). [M+H]+ 336

reactant | 3-[3-((R)-1-tert-Butoxycarbonylamino-propyl)-6-chloro-2-fluoro-benzoyl]-benzoic acid tert-butyl ester | 0.45 mmol, 219 mg | C(C)(C)(C)OC(C1=CC(=CC=C1)C(C1=C(C(=CC=C1Cl)[C@@H](CC)NC(=O)OC(C)(C)C)F)=O)=O | C26H31ClFNO5
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 1.78 mmol, 0.445 mL, 4 eq | O1CCOCC1 | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[3-((R)-1-amino-propyl)-6-chloro-2-fluoro-benzoyl]-benzoic acid | 0.41 mmol, 154 mg, 92% | N[C@H](CC)C=1C(=C(C(=O)C=2C=C(C(=O)O)C=CC2)C(=CC1)Cl)F | C17H15ClFNO3
